US07601856B2
Following the procedure of Example 30, triethylamine (0.52 mL, 3.7 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.37 g, 1.9 mmol), N-hydroxybenzotriazole (0.26 g, 1.9 mmol), N-carbobenzyloxy-L-alanine (0.37 g, 1.6 mmol), and 7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-ylamine (0.30 g, 1.5 mmol) provided benzyl [(1S)-1-methyl-2-oxo-2-(7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylamino)ethyl]carbamate (0.08 g) after purification by flash column chromatography (elution with 40% ethyl acetate-hexanes). MS (ES) m/z 407.2 ([M+H]+).

reactant | triethylamine | 3.7 mmol, 0.52 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.9 mmol, 0.37 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-hydroxybenzotriazole | 1.9 mmol, 0.26 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-carbobenzyloxy-L-alanine | 1.6 mmol, 0.37 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
reactant | 7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-ylamine | 1.5 mmol, 0.30 g | C1=C(C=CC=2OC3=C(C21)CCCCC3)N | C13H15NO
product | benzyl [(1S)-1-methyl-2-oxo-2-(7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylamino)ethyl]carbamate | 0.08 g | C[C@@H](C(NC1=CC2=C(OC3=C2CCCCC3)C=C1)=O)NC(OCC1=CC=CC=C1)=O | C24H26N2O4
